US04243666
1-Benzyloxycarbonyl-4-[N-(2-hydroxyethyl)carbamoyl]piperidine [6.24 g, m.p. 107°-108°, Found: C, 62.8; H, 7.2; N, 9.0; Calculated: C, 62.7; H, 7.2; N, 9.1; prepared similarly to Preparation C but starting from 1-benzyloxycarbonylpiperidine-4-carboxylic acid chloride and 2-hydroxyethylamine] was hydrogenated as in Preparation G to give 4-[N-(2-hydroxyethyl)carbamoyl]piperidine. The i.r. and n.m.r. spectra were consistent with this structure and the product was used in Example 6 without further purification.

reactant | 1-Benzyloxycarbonyl-4-[N-(2-hydroxyethyl)carbamoyl]piperidine | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(NCCO)=O | C16H22N2O4
reactant | 1-benzyloxycarbonylpiperidine-4-carboxylic acid chloride | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(=O)Cl | C14H16ClNO3
reactant | 2-hydroxyethylamine | OCCN | C2H7NO
product | 4-[N-(2-hydroxyethyl)carbamoyl]piperidine | OCCNC(=O)C1CCNCC1 | C8H16N2O2
